US07655666B2
To a solution containing a 1:1 mixture of 3-methyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole and 5-methyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole (1.5 g, 7.06 mmol) in THF (20 mL) at −78° C. was added dropwise n-BuLi (1.6M in hexanes, 4.4 mL, 1 equiv) while keeping the temperature below −70° C. The mixture was then stirred 30 min at −78° C. prior to the addition of tributyltin chloride (1.9 mL, 1 equiv) (the temperature was maintained below −70° C.). The mixture was stirred at −78° C. for 30 min and for 2 h at r.t. Hexanes was added to the mixture and the insoluble material was removed by filtration. Concentration of the solution in vacuo gave a colorless syrup. The crude product was purified by flash chromatography (hexanes to EtOAc/hexanes (20/80)) to provide 3-methyl-5-tributylstannanyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole (847 mg, 24%) as a colorless syrup. (TLC rf 0.33 in EtOAc/hexanes 5:95).

reactant | 3-methyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole | CC1=NN(C=C1)CCOC[Si](C)(C)C | C10H20N2OSi
reactant | 5-methyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole | 7.06 mmol, 1.5 g | CC1=CC=NN1CCOC[Si](C)(C)C | C10H20N2OSi
reactant | n-BuLi | 1.6M, 4.4 mL, 1 equiv | [Li]CCCC
reactant | tributyltin chloride | 1.9 mL, 1 equiv | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-methyl-5-tributylstannanyl-1-(2-trimethylsilanylmethoxy-ethyl)-1H-pyrazole | 847 mg, 24% | CC1=NN(C(=C1)[Sn](CCCC)(CCCC)CCCC)CCOC[Si](C)(C)C | InChI=1S/C10H19N2OSi.3C4H9.Sn/c1-10-5-6-12(11-10)7-8-13-9-14(2,3)4;3*1-3-4-2;/h5H,7-9H2,1-4H3;3*1,3-4H2,2H3;
